US05677324
6-(1H-Tetrazol-5-yl)-2,2,3-trimethyl-2H-benzo[b]pyran
A mixture of 6-cyano-2,2,3-trimethyl-2H-benzo[b]pyran (see J. Med. Chem., 1991, 34, 3074) (4 g), sodium azide (4.0 g), triethylamine hydrochloride (4.2 g) and 1-methyl-2-pyrrolidinone (40 ml), was heated at 150° C. for 1 hour. On cooling to room temperature water (200 ml) was added and the mixture was brought to pH 14 by the addition of solid sodium hydroxide. The solution was extracted with ethyl acetate (200 ml) then acidified to pH 3-4 with concentrated hydrochloric acid to give a solid which was filtered off, washed with water and dried to give the title compound, 4.5 g, m.p. 179°-181° C. Found: C, 64.58; H, 5.81; N, 23.46; C13H14N4O requires: C, 64.45; H, 5.82; N, 23.13%.

reactant | 6-cyano-2,2,3-trimethyl-2H-benzo[b]pyran | 4 g | C(#N)C1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C13H13NO
reactant | sodium azide | 4.0 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4.2 g | Cl.C(C)N(CC)CC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | 6-(1H-Tetrazol-5-yl)-2,2,3-trimethyl-2H-benzo[b]pyran | N1N=NN=C1C1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C13H14N4O
